US05332717
5.4 g of 3-methoxy-phthalic acid anhydride [see A. V. R. Rao et al., Indian J. Chew. 20B, 248 ff. (1981)], 4.7 g of malonic acid and 9 ml of triethylamine are heated slowly. The suspension becomes stirrable at 55° C. and, from 68° C., moderately vigorous CO2 evolution occurs. The internal temperature is maintained at 73° C. until gas evolution ceases (about 1 hour) and the reaction mixture is then heated at reflux temperature (internal temperature 85° C.) for a further 4 hours. When it has cooled, the reaction mixture is treated with water and extracted with ethyl acetate. The aqueous phase is then adjusted to pH 1.7 and extracted three times with fresh ethyl acetate, dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. Fractional crystallisation (ethyl acetate/n-hexane) yields 3-hydroxy-7-methoxy-3-methyl-phthalide, m.p. 156°-158° C.; IR spectrum (CHCl3): C=O 1772 cm-1.

reactant | 3-methoxy-phthalic acid anhydride | 5.4 g | COC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O4
reactant | malonic acid | 4.7 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | CO2 | C(=O)=O | CO2
solvent | water | O | H2O
product | 3-hydroxy-7-methoxy-3-methyl-phthalide | OC1(OC(=O)C2=C(C=CC=C12)OC)C | C10H10O4
